US03985730
A solution of 4 parts of 10-(aminomethyl)-5-ethyl-10,11-dihydro-N,N-diisopropyl-5H-dibenz[b,f]azepine-10-ethanamine in a minimal amount of absolute ethanol at around 20° is acidified with a 15% solution of hydrogen bromide in ethanol. Sufficient ether is added to cause an oil to separate. Supernatant solvents are decanted from the oil, which is crystallized by slurrying with anhydrous ether. Recrystallization from absolute ethanol affords 10-(aminomethyl)-5-ethyl-10,11-dihydro-N,N-diisopropyl-5H-dibenz[b,f]azepine-10-ethanamine dihydrobromide as a colorless solid which, washed with anhydrous ether and dried in vacuo at 80°, melts at approximately 239°-240°.

reactant | 10-(aminomethyl)-5-ethyl-10,11-dihydro-N,N-diisopropyl-5H-dibenz[b,f]azepine-10-ethanamine | NCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)CCN(C(C)C)C(C)C | C25H37N3
reactant | hydrogen bromide | Br | BrH
reactant | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 10-(aminomethyl)-5-ethyl-10,11-dihydro-N,N-diisopropyl-5H-dibenz[b,f]azepine-10-ethanamine dihydrobromide | Br.Br.NCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)CCN(C(C)C)C(C)C | InChI=1S/C25H37N3.2BrH/c1-6-27-23-13-9-7-11-21(23)17-25(18-26,22-12-8-10-14-24(22)27)15-16-28(19(2)3)20(4)5;;/h7-14,19-20H,6,15-18,26H2,1-5H3;2*1H
